US03994886
7-ACA (13.65 g) and 5-mercapto-2-methyl-1,3,4-triazole (8.15 g) are suspended in 500 ml. of phosphate buffer 0.2 M (Na2HPO4 /NaH2PO4) pH 6.5. To the suspension are added with stirring 10.93 g. of NaHCO3. The reaction medium is heated for 80 minutes with stirring on a 80° C water bath. The solution is then treated with charcoal, cooled (5°-10° C) and acidified to pH 4 with 2 N hydrochloric acid. The obtained suspension is diluted with 150 ml. of acetone and stirred for 30 minutes. The precipitate is filtered, washed with water, acetone and ethyl ether and dried under reduced pressure to yield 7-amino-3-(2-methyl-1,3,4-triazol-5-ylthiomethyl)-3-cephem-4 -carboxylic acid.

reactant | 7-ACA | 13.65 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 5-mercapto-2-methyl-1,3,4-triazole | 8.15 g | SC1=NN=C(N1)C | C3H5N3S
reactant | phosphate | 0.2 M, pH 6.5 | P(=O)([O-])([O-])[O-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | charcoal | C | CH4
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 7-amino-3-(2-methyl-1,3,4-triazol-5-ylthiomethyl)-3-cephem-4 -carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(N2)C)C(=O)O)C1=O | C11H13N5O3S2
